US08729271B2
6-Bromo-5-fluoropyridine-2-carbaldehyde
After a solution of 2-bromo-6-(dibromomethyl)-3-fluoropyridine (615 mg) and calcium carbonate (391 mg) in dimethylsulfoxide (6.5 mL) was stirred while heating at 150° C. for 4.5 hr, the reaction mixture was reverted to room temperature and stirred for 15.5 hr. After water was added thereto, the mixtue was stirred and then extracted with ethyl acetate. The organic phase was washed with water and brine, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=98:2-82:18) to afford the title compound (240 mg).

reactant | 2-bromo-6-(dibromomethyl)-3-fluoropyridine | 615 mg | BrC1=NC(=CC=C1F)C(Br)Br | C6H3Br3FN
reactant | calcium carbonate | 391 mg | C([O-])([O-])=O.[Ca+2]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 6.5 mL | CS(=O)C | C2H6OS
product | 6-Bromo-5-fluoropyridine-2-carbaldehyde | 240 mg | BrC1=C(C=CC(=N1)C=O)F | C6H3BrFNO
